US07943609B2
N-[(1S)-1-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]quinoline-3,4-diamine (5.05 g, 14.0 mmol) was dissolved in 140 mL of dry 1,2-dichloroethane and the solution was stirred under N2. Ethyl 2-chloroethanimidoate hydrochloride (3.33 g, 21.1 mmol) was then added and the reaction mixture was heated to 70° C. After stirring for 2 days, the reaction mixture was cooled and treated with 70 mL of CHCl3 and 100 mL of saturated sodium bicarbonate (NaHCO3) solution. The layers were separated and the organic portion was washed with H2O and brine. The organic portion was then dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 33%-50% ethyl acetate/hexanes) gave 1-[(1S)-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]-2-(chloromethyl)-1H-imidazo[4,5-c]quinoline (4.85 g) as a dull yellow solid.

reactant | N-[(1S)-1-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]quinoline-3,4-diamine | 14.0 mmol, 5.05 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C(C)C)NC=1C=NC2=CC=CC=C2C1N | C20H33N3OSi
reactant | Ethyl 2-chloroethanimidoate hydrochloride | 21.1 mmol, 3.33 g | Cl.ClCC(OCC)=N
reactant | CHCl3 | 70 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
reactant | 1,2-dichloroethane | 140 mL | ClCCCl | C2H4Cl2
product | 1-[(1S)-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]-2-(chloromethyl)-1H-imidazo[4,5-c]quinoline | 4.85 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C(C)C)N1C(=NC=2C=NC=3C=CC=CC3C21)CCl | C22H32ClN3OSi
